US04831055
Methyl 4-[2-(4-bromobenzamido)ethoxy]benzoate
p-Bromobenzoic acid (6 g) and 3.35 g of triethylamine were dissolved in 80 ml of chloroform, the mixture was cooled at 0°-5° C. with stirring, and 3.26 g of ethyl chlorocarbonate was dropped thereinto. The mixture was stirred at the same temperature for 30 minutes, 5.86 g of methyl 4-(2-aminoethoxy)benzoate was added, and the mixture was stirred for 7 hours more. The reaction solution was washed with 10% hydrochloric acid, saturated potassium carbonate solution, and with water, dried with anhydrous magnesium sulphate, concentrated in vacuo, the residue was crystallised with n-hexane, and 8.5 g of crystals obtained were recrystallised from ethyl acetate to give 6.4 g of the product, m.p. 134°-136° C.

reactant | p-Bromobenzoic acid | 6 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | triethylamine | 3.35 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 3.26 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | methyl 4-(2-aminoethoxy)benzoate | 5.86 g | NCCOC1=CC=C(C(=O)OC)C=C1 | C10H13NO3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-[2-(4-bromobenzamido)ethoxy]benzoate | 6.4 g | BrC1=CC=C(C(=O)NCCOC2=CC=C(C(=O)OC)C=C2)C=C1 | C17H16BrNO4
